US08754114B2
Step 3: N-[3-(5-{1-[1-(cyanomethyl)-2,2,2-trifluoroethyl]-1H-pyrazol-4-yl}-1H-benzimidazol-1-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea
To a solution of N-{3-[5-(1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea HCl salt (20.0 mg, 0.0458 mmol) in acetonitrile (1 mL) was added (2E)-4,4,4-trifluorobut-2-enenitrile (8.3 mg, 0.069 mmol) and 1,8-diazabicyclo[5.4.0]undec-7-ene (14 μL, 0.092 mmol). The solution was stirred and heated at 80° C. for several hours. The reaction solution was concentrated under reduced pressure to dryness. The residue was dissolved in MeOH, and purified by RP-HPLC (pH=10) to afford the desired compound. LCMS (M+H)+: m/z=522.1.

reactant | N-{3-[5-(1H-pyrazol-4-yl)-1H-benzimidazol-1-yl]phenyl}-N′-(2,2,2-trifluoroethyl)urea HCl salt | 0.0458 mmol, 20.0 mg | Cl.N1N=CC(=C1)C1=CC2=C(N(C=N2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C=C1
reactant | (2E)-4,4,4-trifluorobut-2-enenitrile | 0.069 mmol, 8.3 mg | FC(/C=C/C#N)(F)F | C4H2F3N
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.092 mmol, 14 μL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | N-[3-(5-{1-[1-(cyanomethyl)-2,2,2-trifluoroethyl]-1H-pyrazol-4-yl}-1H-benzimidazol-1-yl)phenyl]-N′-(2,2,2-trifluoroethyl)urea | C(#N)CC(C(F)(F)F)N1N=CC(=C1)C1=CC2=C(N(C=N2)C=2C=C(C=CC2)NC(=O)NCC(F)(F)F)C=C1 | C23H17F6N7O
